US08236806B2
1-(3-(1-tert-butyl-3-propyl-1H-pyrazol-5-yl)propyl)-4-(2,4-dimethylphenyl)piperazine (Compound 138)
164 mg (84%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-tert-butyl-3-propyl-1H-pyrazol-5-yl)propanal (100 mg, 0.450 mmol), 1-(2,4-dimethylphenyl)piperazine (86 mg, 0.450 mmol), DIPEA (0.118 mL, 0.675 mmol) and NaBH(OAc)3 (286 mg, 1.350 mmol).

reactant | 3-(1-tert-butyl-3-propyl-1H-pyrazol-5-yl)propanal | 0.450 mmol, 100 mg | C(C)(C)(C)N1N=C(C=C1CCC=O)CCC | C13H22N2O
reactant | 1-(2,4-dimethylphenyl)piperazine | 0.450 mmol, 86 mg | CC1=C(C=CC(=C1)C)N1CCNCC1 | C12H18N2
reactant | DIPEA | 0.675 mmol, 0.118 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 1.350 mmol, 286 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(3-(1-tert-butyl-3-propyl-1H-pyrazol-5-yl)propyl)-4-(2,4-dimethylphenyl)piperazine | C(C)(C)(C)N1N=C(C=C1CCCN1CCN(CC1)C1=C(C=C(C=C1)C)C)CCC | C25H40N4
